*$
* TLV376
*************************************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*******************************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensor's and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*************************************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*************************************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: TLV376
* Date: 13FEB2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS755 -OCTOBER 2016
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.2
*
*****************************************************************************
*
* Updates:
*
* Final 1.2
* Updated with unique subckt name, Vos drift, Current Noise and edits in claw block
*
*
* Final 1.1
* Release to Web.
*
****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD_INA333 CELLS (ESD_INA333in, ESD_INA333out)
******************************************************
.subckt TLV376 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=250e-3 Voff=100e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=100e-3 Voff=0)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
XV_OS N045 N044 VOS_DRIFT_TLV376
R1 N041 N039 R_NOISELESS 1e-3 
R2 N051 ESDn R_NOISELESS 1e-3 
R3 N066 0 R_NOISELESS 1e12 
C1 N066 0 1
R4 VCC_B N065 R_NOISELESS 1e-3 
C2 N065 0 1e-15
C3 N067 0 1e-15
R5 N067 VEE_B R_NOISELESS 1e-3 
G1 N041 N042 N005 N013 1e-3
R6 MID N049 R_NOISELESS 1e12 
VCM_MIN N050 VEE_B -0.1
R7 N050 MID R_NOISELESS 1e12 
VCM_MAX N049 VCC_B 0.1
XVCM_CLAMP N042 MID N046 MID N049 N050 VCCS_EXT_LIM_TLV376
R8 N046 MID R_NOISELESS 1 
C4 N047 MID 1e-15
R9 N046 N047 R_NOISELESS 1e-3 
V4 N062 OUT 0
XIQ+ VIMON MID VCC MID VCCS_LIM_IQ_TLV376
XIQ- MID VIMON VEE MID VCCS_LIM_IQ_TLV376
R12 VCC_B N015 R_NOISELESS 1e3 
R13 N034 VEE_B R_NOISELESS 1e3 
XCLAWp VIMON MID N015 VCC_B VCCS_LIM_CLAWp_TLV376
XCLAWn MID VIMON VEE_B N034 VCCS_LIM_CLAWn_TLV376
R14 VEE_CLP MID R_NOISELESS 1e3 
R15 MID VCC_CLP R_NOISELESS 1e3 
R16 N016 N015 R_NOISELESS 1e-3 
R17 N035 N034 R_NOISELESS 1e-3 
C5 MID N016 1e-15
C6 N035 MID 1e-15
R18 VOUT_S N053 R_NOISELESS 100
C7 VOUT_S MID 1e-9
G2 MID VCC_CLP N016 MID 1e-3
G3 MID VEE_CLP N035 MID 1e-3
XCL_AMP N011 N040 VIMON MID N019 N032 CLAMP_AMP_LO_TLV376
V_ISCp N011 MID 32
V_ISCn N040 MID -50
R19 N040 MID R_NOISELESS 1e9 
R20 N032 MID R_NOISELESS 1 
C8 N033 MID 1e-15
R21 MID N019 R_NOISELESS 1 
R22 MID N011 R_NOISELESS 1e9 
C9 MID N020 1e-15
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N017 N030 CLAMP_AMP_LO_TLV376
R23 VEE_CLP MID R_NOISELESS 1e9 
R24 N030 MID R_NOISELESS 1 
C10 N031 MID 1e-15
R25 MID N017 R_NOISELESS 1 
R26 MID VCC_CLP R_NOISELESS 1e9 
C11 MID N018 1e-15
XCL_SRC N020 N033 CL_CLAMP MID VCCS_LIM_4_TLV376
XCLAW_SRC N018 N031 CLAW_CLAMP MID VCCS_LIM_3_TLV376
R27 N017 N018 R_NOISELESS 1e-3 
R28 N031 N030 R_NOISELESS 1e-3 
R29 N019 N020 R_NOISELESS 1e-3 
R30 N033 N032 R_NOISELESS 1e-3 
R33 VIMON N052 R_NOISELESS 100
C13 VIMON MID 1e-9
C_DIFF ESDp ESDn 6.5e-12
C_CMn ESDn MID 13e-12
C_CMp MID ESDp 13e-12
I_Q VCC VEE 815e-6
I_B N042 MID 3e-13
I_OS N051 MID 1e-13
R34 IN+ ESDp R_NOISELESS 10e-3 
R35 IN- ESDn R_NOISELESS 10e-3 
R36 N036 MID R_NOISELESS 1 
R37 N043 MID R_NOISELESS 1e9 
R38 MID N028 R_NOISELESS 1 
R39 MID N014 R_NOISELESS 1e9 
XGR_AMP N014 N043 N027 MID N028 N036 CLAMP_AMP_HI_TLV376
XGR_SRC N029 N037 CLAMP MID VCCS_LIM_GR_TLV376
C17 MID N029 1e-15
C18 N037 MID 1e-15
V_GRn N043 MID -60
V_GRp N014 MID 40
R40 N028 N029 R_NOISELESS 1e-3 
R41 N037 N036 R_NOISELESS 1e-3 
R42 VSENSE N027 R_NOISELESS 1e-3 
C19 MID N027 1e-15
R43 MID VSENSE R_NOISELESS 1e3 
G5 N038 N039 N010 MID 1e-3
G8 MID CLAW_CLAMP N054 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3 
G9 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R46 MID CL_CLAMP R_NOISELESS 1e3 
R47 N063 VCLP R_NOISELESS 100
C24 MID VCLP 1e-12
E4 N063 MID CL_CLAMP MID 1
R52 MID ESDp R_NOISELESS 1T 
R53 ESDn MID R_NOISELESS 1T 
R58 N039 N038 R_NOISELESS 1e3 
R59 N065 N066 R_NOISELESS 1e6 
R60 N066 N067 R_NOISELESS 1e6 
R67 N042 N041 R_NOISELESS 1e3 
G15 MID VSENSE CLAMP MID 1e-3
V_ORp N026 VCLP 0.63
V_ORn N021 VCLP -0.63
E1 MID 0 N066 0 1
S8 N024 CLAMP CLAMP N024 OR_SW
S9 CLAMP N023 N023 CLAMP OR_SW
Xe_n N044 ESDp VNSE_TLV376
Xi_nn ESDn MID FEMT_TLV376
Xi_np N044 MID FEMT_TLV376
XVCCS_LIMIT_1 N047 N051 MID N048 VCCS_LIM_1_TLV376
XVCCS_LIMIT_2 N048 MID MID CLAMP VCCS_LIM_2_TLV376
R44 N048 MID R_NOISELESS 1e6 
R68 CLAMP MID R_NOISELESS 1e6 
C20 CLAMP MID 1.4e-7
G7 MID N054 VSENSE MID 1e-6
R69 N054 MID R_NOISELESS 1e6 
C25 N054 MID 1.04e-14
XOL_SENSE_TLV376 MID N070 N069 N072 OL_SENSE_TLV376
R31 N070 MID R_NOISELESS 1 
R51 N070 SW_OL R_NOISELESS 100 
C12 SW_OL MID 1e-12
H2 N068 MID V11 -1
H3 N071 MID V12 1
V11 N023 N022 0
V12 N024 N025 0
S1 N056 N055 SW_OL MID OL_SW
R77 N068 N069 R_NOISELESS 100
C28 N069 MID 1e-12
R78 N071 N072 R_NOISELESS 100
C29 N072 MID 1e-12
G14 MID N022 N021 MID 1
G16 MID N025 N026 MID 1
R75 N022 MID R_NOISELESS 1
R76 N025 MID R_NOISELESS 1
G17 0 VCC_B VCC 0 1
G18 0 VEE_B VEE 0 1
R79 VCC_B 0 R_NOISELESS 1
R80 VEE_B 0 R_NOISELESS 1
C27 N007 N006 6.03e-14
R81 N007 MID R_NOISELESS 1.92e6
R82 N007 N006 R_NOISELESS 1e8
G_adjust2 MID N006 ESDp MID 1.68e-3
G19 MID N008 MID N007 1
C30 N009 N008 6.03e-14
R83 N009 N008 R_NOISELESS 1e8
R84 N009 MID R_NOISELESS 1.92e6
G20 MID N010 MID N009 53.03
C14 N003 N004 3.44e-13
R48 N003 MID R_NOISELESS 1.42e6
R49 N003 N004 R_NOISELESS 1e8
G12 MID N002 MID N003 1
C31 N001 N002 3.44e-13
R85 N001 N002 R_NOISELESS 1e8
R86 N001 MID R_NOISELESS 1.42e6
G21 MID N005 MID N001 71.43
Rsrc10 N005 MID R_NOISELESS 1
G22 MID N004 VCC_B MID 342e-6
R87 N002 MID R_NOISELESS 1
R88 N004 MID R_NOISELESS 1
C15 N013 N012 6.24e-11
R54 N013 MID R_NOISELESS 10.2e3
R55 N013 N012 R_NOISELESS 1e8
G4 MID N012 VEE_B MID 46.92e-3
R56 N012 MID R_NOISELESS 1
Rx N062 N061 R_NOISELESS 1e5
Rdummy N062 MID R_NOISELESS 1e4
G6 MID N055 CL_CLAMP N062 89.3
Rdc1 N055 MID R_NOISELESS 1
R32 N055 N056 R_NOISELESS 1e4
R50 N056 MID R_NOISELESS 15.14
G10 MID N057 N056 MID 661.54
C16 N056 N055 2.45e-5
R57 N057 MID R_NOISELESS 1
R61 N057 N058 R_NOISELESS 99e4
R62 N058 N064 R_NOISELESS 1e4
C21 MID N064 2.65e-11
Gb1 MID N059 N058 MID 1
R63 N059 MID R_NOISELESS 1
R64 N059 N060 R_NOISELESS 1e4
R65 N060 MID R_NOISELESS 6
C22 N060 N059 2.65e-13
R89 N006 MID R_NOISELESS 1
R90 N008 MID R_NOISELESS 1
R91 N010 MID R_NOISELESS 1
XVCVS_LIM_1_TLV376 N060 MID N061 MID VCVS_LIM_1_TLV376
XVOS_VCM N038 N045 VCC VEE VOS_SRC_TLV376
S2 VCC ESDn ESDn VCC ESD_SW
S3 VCC ESDp ESDp VCC ESD_SW
S4 ESDn VEE VEE ESDn ESD_SW
S5 ESDp VEE VEE ESDp ESD_SW
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E2 N053 MID OUT MID 1
R10 MID N053 R_NOISELESS 1e12 
H1 N052 MID V4 1e3
R11 MID N052 R_NOISELESS 1e12 
.ends TLV376
*
.SUBCKT VOS_DRIFT_TLV376 VOS+ VOS-
.PARAM DC = 13.658e-6
.PARAM POL = 1
.PARAM DRIFT = 1E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
*
.subckt CLAMP_AMP_HI_TLV376 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_HI_TLV376
*
.subckt FEMT_TLV376 1 2
.param NVRF=2
.param RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1e-6
.ends FEMT_TLV376
*
.subckt VCCS_EXT_LIM_TLV376 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends VCCS_EXT_LIM_TLV376
*
.subckt VCCS_LIM_3_TLV376 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 80e-3
.param Ineg = -120e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_TLV376
*
.subckt VCCS_LIM_4_TLV376 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 240e-3
.param Ineg = -240e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_4_TLV376
*
.subckt VCCS_LIM_CLAWp_TLV376 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.079e-5)
+(10, 2e-4)
+(15, 3.1e-4)
+(20, 4.5e-4)
+(22.5, 5.5e-4)
+(25, 6.7e-4)
+(27.5, 9e-4)
+(30, 1.3e-3)
+(32, 1.88e-3)
.ends VCCS_LIM_CLAWp_TLV376
*
.subckt VCCS_LIM_CLAWn_TLV376 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1.079e-5)
+(18.2, 2.9e-4)
+(35, 5.9e-4)
+(40, 7.4e-4)
+(42.7, 8.2e-4)
+(45, 9.5e-4)
+(46, 1.03e-3)
+(48.1, 1.33e-3)
+(50, 1.95e-3)
.ends VCCS_LIM_CLAWn_TLV376
*
.subckt VCCS_LIM_IQ_TLV376 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends VCCS_LIM_IQ_TLV376
*
.subckt VNSE_TLV376 1 2
.param FLW=1
.param GLF=4.73e-2
.param RNV=66.6
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_TLV376
*
.subckt CLAMP_AMP_LO_TLV376 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_LO_TLV376
*
.subckt VCCS_LIM_GR_TLV376 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos =.6
.param Ineg = -.6
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_GR_TLV376
*
.subckt VCCS_LIM_1_TLV376 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_1_TLV376
*
.subckt VCCS_LIM_2_TLV376 VC+ VC- IOUT+ IOUT-
.param Gain = 61.86e-3
.param Ipos = .28
.param Ineg = -.28
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_TLV376
*
.subckt VCVS_LIM_1_TLV376 VC+ VC- VOUT+ VOUT-
.param Gain = 1667
.param Vpos = 6.4e3
.param Vneg = -10e3
E1 VOUT+ VOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Vneg,Vpos)}
.ends VCVS_LIM_1_TLV376
*
.subckt OL_SENSE_TLV376 1   2  3  4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends OL_SENSE_TLV376
*
.subckt VOS_SRC_TLV376 V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(-.1, 1.1e-3)
+(0.9, 1e-3)
+(1, 0)
+(4, 0)
E2 1 V- TABLE {(V(V-, REF-))}=
+(-0.1, 1e-4)
+(1, 0)
+(1.1, 0)
.ends VOS_SRC_TLV376
*
